US04632925
Preparation of alpha,alpha-Bis(3-methoxyphenyl)-4-piperidineethanol
A solution of alpha,alpha-bis(3-methoxyphenyl)-4-pyridine-ethanol (63 g) in acetic acid (400 ml) was hydrogenated over platinum oxide (2 g; 100 p.s.i.; 50°). The reaction was stopped after the uptake of the theoretical amount of hydrogen (0.564 mol), then it was filtered to remove the catalyst and the solvent was evaporated under reduced pressure. After the residue was taken up in water (400 ml) and toluene (200 ml), the mixture was heated to reflux and then made basic with 10N sodium hydroxide. The mixture was cooled to 5°, and the resulting solid was collected by filtration, then was washed in turn with water, toluene, toluene-hexane (1:1) and hexane to give, after drying, 62.5 g of alpha,alpha-bis(3-methoxyphenyl)-4-piperidineethanol, mp 111°-113°.

reactant | alpha,alpha-bis(3-methoxyphenyl)-4-pyridine-ethanol | 63 g | COC=1C=C(C=CC1)C(CC1=CC=NC=C1)(O)C1=CC(=CC=C1)OC | C21H21NO3
reactant | hydrogen | 0.564 mol | [H][H] | H2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 2 g | [Pt]=O
product | alpha,alpha-Bis(3-methoxyphenyl)-4-piperidineethanol | COC=1C=C(C=CC1)C(CC1CCNCC1)(O)C1=CC(=CC=C1)OC | C21H27NO3
